US05324710
29.5 g of methyl 5-chloro-2,6-dimethoxypyrimidine-4-carboxylate solid are added to a stirred solution of 5.4 g of sodium hydroxide in 100 ml of methanol and 5 ml of water. Stirring is continued at room temperature until completion of the hydrolysis (3H), methanol is distilled off and the residue is taken up in water. The aqueous phase is first extracted once using ethyl acetate, then acidified to pH 2-3 with conc. hydrochloric acid and extracted five times using dichloromethane. The combined dichloromethane extracts are dried over sodium sulfate, the solvent is distilled off and the residue is dried in vacuo at 50° c. 23.0 g of 5-chloro-2,5-dimethoxypyrimidine-4-carboxylic acid of melting point 117°-119° C. (dec.) are obtained in this way.

reactant | methyl 5-chloro-2,6-dimethoxypyrimidine-4-carboxylate | 29.5 g | ClC=1C(=NC(=NC1OC)OC)C(=O)OC | C8H9ClN2O4
reactant | sodium hydroxide | 5.4 g | [OH-].[Na+]
reactant | methanol | 100 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 5-chloro-2,5-dimethoxypyrimidine-4-carboxylic acid | 23.0 g | ClC1(C(N=C(N=C1)OC)C(=O)O)OC | C7H9ClN2O4
